US08193204B2
This compound was prepared based on a literature procedure (Firooznia, et al., Tetrahedron Lett. 40:213-216 (1999)). Bis(pinacolato)diboron (90 g, 1.1 eq), potassium acetate (63 g, 2 eq), tricyclohexylphosphine (2.3 g, 2.5% mol), and palladium acetate (0.72 g, 1 mol %) were mixed in acetonitrile (950 ml) and the resulting mixture stirred at room temperature for 5 minutes. (S)-Methyl 2-(tert-butoxycarbonylamino)-3-(4-(trifluoromethylsulfonyloxy)-phenyl)propanoate solution (190 g, 0.32 mol) was added and the resulting mixture was heated at 80° C. for 1 hour and cooled. HPLC showed complete consumption of the starting material. The reaction mixture was quenched with aqueous potassium bicarbonate solution (57 g in 475 ml water) and resulting mixture was stirred at room temperature for 30 minutes. The mixture was filtered through a pad of cellulose to remove palladium black. A sample of the organic layer was concentrated and purified by column chromatography (gradient: 1:10 to 1:4 ethyl acetate/hexanes) to give (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanoate as a clear oil. LC-MS (ESI): MH+=406.2, MNH4+=423.2, M2H+=811.5, M2NH4+=428.5. 1H NMR (CDCl3) δ 7.76 (d, J=8.1 Hz, 2H), 7.15 (d, J=7.6 Hz, 2H), 4.96 (d, J=7.3 Hz, 1H), 4.60 (m, 1H), 3.72 (s, 3H), 3.13 (m, 2H), 1.44 (s, 9H), 1.36 (s, 12H).

reactant | Bis(pinacolato)diboron | 90 g, 1.1 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 63 g, 2 eq | C(C)(=O)[O-].[K+]
reactant | tricyclohexylphosphine | 2.3 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | (S)-Methyl 2-(tert-butoxycarbonylamino)-3-(4-(trifluoromethylsulfonyloxy)-phenyl)propanoate | 0.32 mol, 190 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C16H20F3NO7S
solvent | acetonitrile | 950 ml | C(C)#N | C2H3N
catalyst | palladium acetate | 0.72 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C21H32BNO6
